### PR TITLE
feat: add automation support for pairwise memory separation

### PR DESCRIPTION
**Pull request by bollu**
This is stacked on top of #123 , since we want to state this, for a given `ms : List MemoryRegion`, `ms.pairwise MemoryRegion.Separate`. This, of course, needs us to have the `MemoryRegion` abstraction in the first place.

### CODE REVIEW

**Comment by shigoel** [comment]
@bollu  Conflicts here.

**Comment by bollu** [comment]
@shigoel conflicts addressed!

File: Arm/Memory/Separate.lean [hunk 1]
```diff
@@ -328,6 +328,12 @@ theorem BitVec.not_le_eq_lt {a b : BitVec w₁} : (¬ (a ≤ b)) ↔ b < a := by
...
   omega
 
+theorem mem_separate'_comm (h : mem_separate' a an b bn) :
+    mem_separate' b bn a an := by
+  have := h.omega_def
+  apply mem_separate'.of_omega
+  omega
+
 /-#
 This is a theorem we ought to prove, which establishes the equivalence
```
Comment (shigoel) [inline Arm/Memory/Separate.lean:338]: Just got reminded of this TODO theorem: `mem_separate_of_mem_separate'` -- let's add an issue to keep track of this.

File: Arm/Memory/Separate.lean [hunk 2]
```diff
@@ -560,4 +566,53 @@ theorem Memory.read_bytes_eq_extractLsBytes_sub_of_mem_subset'
       bv_omega
     · simp only [h, ↓reduceIte]
 
+/-- A region of memory, given by (base pointer, length) -/
+abbrev Memory.Region := BitVec 64 × Nat
```
Comment (shigoel) [inline Arm/Memory/Separate.lean:570]: Glad you chose this name, I'm partial to it somehow :)

File: Arm/Memory/Separate.lean [hunk 3]
```diff
@@ -560,4 +566,53 @@ theorem Memory.read_bytes_eq_extractLsBytes_sub_of_mem_subset'
...
+  (hij : i ≠ j)
+  (a b : Memory.Region)
+  (ha : mems.get? i = some a) (hb : mems.get? j = some b) :
+    mem_separate' a.fst a.snd b.fst b.snd := by
+  induction h generalizing a b i j
+  case nil => simp only [List.get?_eq_getElem?, List.getElem?_nil, reduceCtorEq] at ha
+  case cons x xs ihx _ihxs ihxs' =>
+    simp only [List.get?_eq_getElem?] at ha hb
+    rcases i with rfl | i'
+    · simp at ha
```
Comment (shigoel) [inline Arm/Memory/Separate.lean:597]: `simp only` please. Yes, I know I'm paranoid. :)

File: Proofs/Experiments/MemoryAliasing.lean [hunk 4]
```diff
@@ -10,8 +10,8 @@ import Arm.Memory.MemoryProofs
 import Arm.BitVec
 import Arm.Memory.SeparateAutomation
 
-set_option trace.simp_mem true
-set_option trace.simp_mem.info true
+-- set_option trace.simp_mem true
```
Comment (shigoel) [inline Proofs/Experiments/MemoryAliasing.lean:13]: Thank you!

File: Proofs/Experiments/MemoryAliasing.lean [hunk 5]
```diff
@@ -366,17 +382,37 @@ theorem mem_separate_move_of_lt_of_le  (h : mem_separate' a an b bn)
...
+  theorem pairwise_subset (h : Memory.Region.pairwiseSeparate [⟨a, 100⟩, ⟨b, 200⟩, ⟨c, 300⟩, ⟨d, 400⟩]) :
+    mem_separate' a 80 b 100 := by
+    simp_mem
+
+end PairwiseSeparate
+
 namespace MemOptions
 
+set_option trace.simp_mem true
+set_option trace.simp_mem.info true
```
Comment (shigoel) [inline Proofs/Experiments/MemoryAliasing.lean:403]: Comment for less verbose `make` output.

Comment (shigoel) [inline Proofs/Experiments/MemoryAliasing.lean:403]:
```suggestion
-- set_option trace.simp_mem true
-- set_option trace.simp_mem.info true
```

Comment (shigoel) [reply Proofs/Experiments/MemoryAliasing.lean:403]: Oh wait, do you need these to be turned on for the `#guard_msgs` below?

File: Arm/Memory/SeparateAutomation.lean [hunk 6]
```diff
@@ -308,19 +361,36 @@ def consumeRewriteFuel : SimpMemM Unit :=
...
-def introDef (name : String) (hdefVal : Expr) : SimpMemM FVarId  := do
+def simpAndIntroDef (name : String) (hdefVal : Expr) : SimpMemM FVarId  := do
   SimpMemM.withMainContext do
+
     let name ← mkFreshUserName <| .mkSimple name
     let goal ← getMainGoal
     let hdefTy ← inferType hdefVal
+
+    /- Simp to gain some more juice out of the defn.. -/
+    let (simpCtx, simprocs) ← LNSymSimpContext
```
Comment (shigoel) [inline Arm/Memory/SeparateAutomation.lean:388]: This is a heavy `simp`, what with `state_simp_rules`, `bitvec_rules`, and `minimal_theory` in there. Any pitfalls?

File: Proofs/Experiments/MemoryAliasing.lean [hunk 7]
```diff
@@ -159,7 +175,7 @@ theorem mem_automation_test_4
       (write_mem_bytes 48 src_addr val s0)) =
    val.extractLsBytes 1 10 := by
   simp only [memory_rules]
-  simp_mem; -- TODO: repeat on change.
+  simp_mem -- TODO: repeat on change.
```
Comment (shigoel) [inline Proofs/Experiments/MemoryAliasing.lean:178]:
```suggestion
  simp_mem
```
The TODO got done previously, right?

File: Arm/Memory/SeparateAutomation.lean [hunk 8]
```diff
@@ -403,6 +473,35 @@ def MemSeparateProp.ofExpr? (e : Expr) : Option MemSeparateProp :=
...
   | _ => none
 
+/-- info: Prod.mk.{u, v} {α : Type u} {β : Type v} (fst : α) (snd : β) : α × β -/
+#guard_msgs in #check Prod.mk
+
+/-- info: List.cons.{u} {α : Type u} (head : α) (tail : List α) : List α -/
+#guard_msgs in #check List.cons
+
+/-- info: List.nil.{u} {α : Type u} : List α -/
+#guard_msgs in #check List.nil
```
Comment (shigoel) [inline Arm/Memory/SeparateAutomation.lean:483]:
```suggestion
```
We don't need these at this point, I think. It's fairly clear what's going on at `MemPairwiseSeparateProof.ofExpr?`.

File: Arm/Memory/SeparateAutomation.lean [hunk 9]
```diff
@@ -482,10 +585,74 @@ def MemSeparateProof.omega_def (h : MemSeparateProof e) : Expr :=
...
     trace[simp_mem.info]  "{h}: added omega fact ({h.omega_def})"
     return args.push (Expr.fvar fvar)
 
+
+
+/-- info: Ne.{u} {α : Sort u} (a b : α) : Prop -/
+#guard_msgs in #check Ne
+
+/-- info: List.get?.{u} {α : Type u} (as : List α) (i : Nat) : Option α -/
+#guard_msgs in #check List.get?
```
Comment (shigoel) [inline Arm/Memory/SeparateAutomation.lean:599]:
```suggestion
```

File: Arm/Memory/SeparateAutomation.lean [hunk 10]
```diff
@@ -482,10 +585,74 @@ def MemSeparateProof.omega_def (h : MemSeparateProof e) : Expr :=
...
+  let lhs ← mkAppOptM ``List.get? #[.none, mems.getMemSpanListExpr, mkNatLit i]
+  let rhs ← mkSome MemSpanExpr.toTypeExpr a.toExpr
+  mkEq lhs rhs
+
+/--
+info: Memory.Region.separate'_of_pairwiseSeprate_of_mem_of_mem {mems : List Memory.Region}
+  (h : Memory.Region.pairwiseSeparate mems) (i j : Nat) (hij : i ≠ j) (a b : Memory.Region) (ha : mems.get? i = some a)
+  (hb : mems.get? j = some b) : mem_separate' a.fst a.snd b.fst b.snd
+-/
+#guard_msgs in #check Memory.Region.separate'_of_pairwiseSeprate_of_mem_of_mem
```
Comment (shigoel) [inline Arm/Memory/SeparateAutomation.lean:612]: Unlike other `#guard_msgs/#check` blocks, this is a nice reminder because `Memory.Region.separate'_of_pairwiseSeprate_of_mem_of_mem` is nontrivial.

File: Arm/Memory/SeparateAutomation.lean [hunk 11]
```diff
@@ -482,10 +585,74 @@ def MemSeparateProof.omega_def (h : MemSeparateProof e) : Expr :=
...
+      b.toExpr,
+      haVal,
+      hbVal]
+  return ⟨h⟩
+/--
+Currently, if the list is syntacticaly of the form [x1, ..., xn],
+ we create hypotheses of the form `mem_separate' xi xj` for all i, j..
+This can be generalized to pairwise separation given hypotheses x ∈ xs, x' ∈ xs.
+-/
+def MemPairwiseSeparateProof.addOmegaFacts (h : MemPairwiseSeparateProof e) (args : Array Expr) :
```
Comment (shigoel) [inline Arm/Memory/SeparateAutomation.lean:642]: This looks like a lot of omega facts, and maybe that's fine performance-wise, but I'm still nervous.

Can we think about getting these facts smartly/lazily from the context instead? Lot more work, plus we need to make sure we need to be that smart. Thoughts?

**Comment by shigoel** [comment]
Left some comments, looks good in general.

We need more tests for the new pairwise construct (in a PR in the very near future is okay!) -- let's start with changing theorems in the [SHA512 example](https://github.com/leanprover/LNSym/blob/main/Proofs/Experiments/SHA512MemoryAliasing.lean) to use `pairwise`, and then we'll go from there?

File: Arm/Memory/Separate.lean (hunk 1 above)
Comment (bollu) [reply Arm/Memory/Separate.lean:338]: done: https://github.com/leanprover/LNSym/issues/137

File: Arm/Memory/SeparateAutomation.lean (hunk 11 above)
Comment (bollu) [reply Arm/Memory/SeparateAutomation.lean:642]: @shigoel I thought about this a bit, and unfortunately, I convinced myself that there's no complete heuristic for this, so we are forced to know all $$O(n^2)$$ facts in the worst case. Intuitively, we way need to establish something based on knowing the mutual exclusion of *all* memory regions. 

I would like to keep a watch on this, though, and see how it scales as we get larger examples.

File: Proofs/Experiments/MemoryAliasing.lean (hunk 5 above)
Comment (bollu) [reply Proofs/Experiments/MemoryAliasing.lean:403]: Still, I scoped it with `set_option trace.simp_mem true in`...

File: Arm/Memory/SeparateAutomation.lean (hunk 8 above)
Comment (bollu) [reply Arm/Memory/SeparateAutomation.lean:483]: @shigoel I prefer to leave them in, since it at least helps me sanity check what's going on --- code is read a lot more than it's written!

**Comment by bollu** [comment]
@shigoel all comments addressed.

File: Arm/Memory/SeparateAutomation.lean (hunk 11 above)
Comment (shigoel) [reply Arm/Memory/SeparateAutomation.lean:642]: Agree with the intuition, and this works for now.

I was suggesting a lazy pick-a-point heuristic for the future (if need be, and we don't know that until we try bigger examples, I agree): keep picking a separateness fact from the list of memory regions until the goal can't be simplified any further, in which case we throw all the facts in the context. This could work in the common case; very rarely do we need to establish something from the mutual exclusion of _all_ the regions.

But this could be an awful heuristic because of the back-and-forth between picking a fact and attempted simplification; we could build a way to turn this heuristic off. I don't know. Anyway, just a thought for now.

File: Arm/Memory/SeparateAutomation.lean (hunk 6 above)
Comment (shigoel) [reply Arm/Memory/SeparateAutomation.lean:388]: @bollu ?

File: Arm/Memory/Separate.lean (hunk 3 above)
Comment (shigoel) [reply Arm/Memory/Separate.lean:597]: @bollu ?

**Comment by shigoel** [comment]
@bollu I see that a couple comments weren't addressed. Tagged you there.

File: Arm/Memory/SeparateAutomation.lean (hunk 6 above)
Comment (bollu) [reply Arm/Memory/SeparateAutomation.lean:388]: bitvec_rules, minimal_theory, `state_value`.

Comment (bollu) [reply Arm/Memory/SeparateAutomation.lean]: Addressed!

**Comment by bollu** [comment]
@shigoel All comments (hopefully) addressed.

File: Arm/Memory/SeparateAutomation.lean [hunk 12]
```diff
@@ -385,9 +388,20 @@ def simpAndIntroDef (name : String) (hdefVal : Expr) : SimpMemM FVarId  := do
...
+        | throwError m!"[simp_mem] Internal error: simp attribute {a} not found!"
+      simpTheorems := simpTheorems.push (← ext.getTheorems)
+
+    -- unfold `state_value.
+    simpTheorems := simpTheorems.push <| ← ({} : SimpTheorems).addDeclToUnfold `state_value
+    let simpCtx : Simp.Context := { 
+      simpTheorems,
+      config := { decide := true, failIfUnchanged := false },
+      congrTheorems := (← Meta.getSimpCongrTheorems)
+    }
```
Comment (shigoel) [inline Arm/Memory/SeparateAutomation.lean:403]:
```suggestion
LNSymSimpContext 
   (config := { decide := false, failIfUnchanged := false }) 
   (simp_attrs := #[`minimal_theory, `bitvec_rules])
   (decls_to_unfold := #[state_value])
```

@bollu I believe `LNSymSimpContext` can work here. Fair warning: haven't tried out the suggestion, excuse typos, etc.

Comment (shigoel) [reply Arm/Memory/SeparateAutomation.lean:403]: Also, open to making `LNSymSimpContext` nicer (separate issue).

Comment (bollu) [reply Arm/Memory/SeparateAutomation.lean:403]: @shigoel I think I would prefer to keep it as-is, because it's hard to see what `LNSymSimpContext` builds unless one goes and reads its code. Since this code is meant to be performant, I would rather have the building of the simp-set inline, so it's easy to audit.

**Comment by bollu** [comment]
@shigoel happy to have this merged, as I prefer keeping the current around to build the `SimpContext` around.

File: Arm/Memory/SeparateAutomation.lean (hunk 12 above)
Comment (shigoel) [reply Arm/Memory/SeparateAutomation.lean:403]: Weren't you using `LNSymSimpContext` before though?
https://github.com/leanprover/LNSym/pull/126/commits/dd24b6dd0f2c6d7fd8ab0cde42ccd1e75b0838df

Not a big deal, but I want to make sure I understand what the reasons are.

Comment (bollu) [reply Arm/Memory/SeparateAutomation.lean:403]: Indeed, I was reusing `LNSymSimpContext` to make sure that if `LNSymSimpContext` got more powerful, I would get the same power for free :) But thinking this through, I found your argument for why this should *not* be  expensive to be compelling. Therefore, I'd prefer to build a custom simp-set that's tuned down, and to add power to it as necessary. 

From an engineering perspective, I'm advocating for [WET / write everything twice] (https://en.wikipedia.org/wiki/Rule_of_three_(computer_programming)) instead of DRY. 😉

Comment (shigoel) [reply Arm/Memory/SeparateAutomation.lean:403]: Gotcha, though I would note that the particular invocation of `LNSymSimpContext` is equivalent to what you wrote inline.
